US07202363B2
N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
N-(4-{4-{[(dimethylamino)methylene]amino}-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.117 g, 0.177 mmol) was dissolved in tetrahydrofuran (5 mL), and aqueous hydrochloric acid (1 M, 0.24 mL) was added, and the mixture was stirred at ambient temperature for 12 h. The mixture was diluted with methanol/dichloromethane (1:19, 50 mL) the resulting solution was extracted with aqueous sodium bicarbonate (1 M, 10 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification of the residue by flash column chromatography on silica gel which had been deactivated with triethylamine (10% by volume of silica gel used) using methanol/dichloromethane (1:19) as the mobile phase afforded the title compound (0.085 g, 0.17 mmol) as a tan powder: 1H NMR (DMSO-d6, 400 MHz) δ 9.40 (s, 1H), 8.13 (s, 1H), 7.79 (d, 1H), 7.70 (d, 1H), 7.58 (d, 1H), 7.56 (s, 1H), 7.49 (s, 1H), 7.33 (m, 2H), 7.15 (t, 1H), 7.06 (m, 1H), 7.01 (d, 1H), 5.07 (br, 2H), 4.04 (s, 3H), 3.88 (s, 3H), 2.94 (s, 3H), 2.47 (s, 3H); MS: (MH)+ 499.

reactant | N-(4-{4-{[(dimethylamino)methylene]amino}-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.177 mmol, 0.117 g | CN(C)C=NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C40H34N6O2S
reactant | hydrochloric acid | 1 M, 0.24 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol dichloromethane | 50 mL | CO.ClCCl
product | N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.17 mmol, 0.085 g | NC=1C2=C(C(=NC1)N=CN(C)C)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C27H26N6O2S
